// Generated for: spectre
// Generated on: Feb 18 17:50:02 2026
// Design library name: ese6680
// Design cell name: Project1_Opamp
// Design view name: schematic
simulator lang=spectre
global 0
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06P.m"

// Library name: ese6680
// Cell name: Project1_Opamp
// View name: schematic
M4 (net70 net66 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 ad=1.305e-11 \
        ps=20.4u pd=20.4u m=1 region=sat
M3 (net66 net66 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 ad=1.305e-11 \
        ps=20.4u pd=20.4u m=1 region=sat
M6 (Vout net70 GND GND) ami06N w=58.05u l=900n as=8.7075e-11 ad=8.7075e-11 \
        ps=119.1u pd=119.1u m=1 region=sat
Cc (net80 Vout) capacitor c=1p m=1
CL (Vout GND) capacitor c=2p m=1
M7 (Vout net65 VDD VDD) ami06P w=133.95u l=1.2u as=2.00925e-10 \
        ad=2.00925e-10 ps=270.9u pd=270.9u m=1 region=sat
M5 (net69 net65 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
M8 (net65 net65 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
M2 (net70 Vin\+ net69 net69) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
M1 (net66 Vin\- net69 net69) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
Iref (net65 GND) isource type=dc dc=60u m=1
Rc (net70 net80) resistor r=1K m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
