// Generated for: spectre
// Generated on: Feb 18 18:11:16 2026
// Design library name: ese6680
// Design cell name: Project1_Test
// Design view name: schematic
simulator lang=spectre
global 0
parameters vac=1 vdc=2.5
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ese6680
// Cell name: Project1_Opamp
// View name: schematic
subckt Project1_Opamp GND VDD Vin\+ Vin\- Vout
    M4 (net70 net66 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M3 (net66 net66 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M6 (Vout net70 GND GND) ami06N w=58.05u l=900n as=8.7075e-11 \
        ad=8.7075e-11 ps=119.1u pd=119.1u m=1 region=sat
    Cc (net80 Vout) capacitor c=1p m=1
    CL (Vout GND) capacitor c=2p m=1
    M7 (Vout net65 VDD VDD) ami06P w=133.95u l=1.2u as=2.00925e-10 \
        ad=2.00925e-10 ps=270.9u pd=270.9u m=1 region=sat
    M5 (net09 net65 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M8 (net65 net65 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M2 (net70 Vin\+ net09 VDD) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    M1 (net66 Vin\- net09 VDD) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    Iref (net65 GND) isource type=dc dc=60u m=1
    Rc (net70 net80) resistor r=1K m=1
ends Project1_Opamp
// End of subcircuit definition.

// Library name: ese6680
// Cell name: Project1_Test
// View name: schematic
I9 (0 net4 net1 net2 net3) Project1_Opamp
V2 (net1 0) vsource type=dc dc=2.5 mag=500.0m
V1 (net2 0) vsource type=dc dc=2.5 mag=-500m
V0 (net4 0) vsource type=dc dc=5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=10 stop=100G dec=100 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
