// Generated for: spectre
// Generated on: Mar 30 13:59:01 2026
// Design library name: ese6680
// Design cell name: Project2_Test_Dynamic
// Design view name: schematic
simulator lang=spectre
global 0
parameters vd=0.079
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ese6680
// Cell name: Project2_Dynamic
// View name: schematic
subckt Project2_Dynamic Clk Gnd Vdd Vin_n Vin_p out_m out_p
    P4 (out_p out_m net25 Vdd) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P3 (out_m out_p net27 Vdd) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P2 (net25 Vin_p net22 Vdd) ami06P w=1.65u l=600n as=2.475e-12 \
        ad=2.475e-12 ps=6.3u pd=6.3u m=1 region=sat
    P1 (net27 Vin_n net22 Vdd) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P5 (net22 Clk Vdd Vdd) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N5 (net25 Clk Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (out_p Clk Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N3 (out_p out_m Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N2 (out_m out_p Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N1 (out_m Clk Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N0 (net27 Clk Gnd Gnd) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends Project2_Dynamic
// End of subcircuit definition.

// Library name: ese6680
// Cell name: Project2_Test_Dynamic
// View name: schematic
I0 (net2 0 net1 net4 net5 out_m out_p) Project2_Dynamic
V2 (net4 0) vsource type=dc dc=2.5 - vd/2
V1 (net5 0) vsource type=dc dc=2.5 + vd/2
V0 (net1 0) vsource type=dc dc=5
V3 (net2 0) vsource type=pulse val0=0 val1=5 period=2u delay=0 rise=200.0p \
        fall=200.0p width=1u
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=2000n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
