// Generated for: spectre
// Generated on: Feb 13 10:37:13 2026
// Design library name: ese6680
// Design cell name: Project1_Test_Phase
// Design view name: schematic
simulator lang=spectre
global 0
parameters w8=10u l8=1.2u vac=1 vdc=2.5
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ese6680
// Cell name: Project1_Opamp
// View name: schematic
subckt Project1_Opamp GND VDD Vin\+ Vin\- Vout
    M4 (net70 net66 GND GND) ami06N w=8.7u l=900n as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M3 (net66 net66 GND GND) ami06N w=8.7u l=900n as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M6 (Vout net70 GND GND) ami06N w=67.35u l=900n as=1.01025e-10 \
        ad=1.01025e-10 ps=137.7u pd=137.7u m=1 region=sat
    Cc (net80 Vout) capacitor c=3p m=1
    CL (Vout GND) capacitor c=2p m=1
    M7 (Vout net65 VDD VDD) ami06P w=229.95u l=1.2u as=3.44925e-10 \
        ad=3.44925e-10 ps=462.9u pd=462.9u m=1 region=sat
    M5 (net69 net65 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M8 (net65 net65 VDD VDD) ami06P w=w8 l=l8 as=w8 * 2.5 * (600n) ad=w8 * 2.5 * (600n) \
         ps=(2 * w8) + (5 * (600n)) pd=(2 * w8) + (5 * (600n)) m=1 \
        region=sat
    M2 (net70 Vin\+ net69 net69) ami06P w=49.95u l=900n as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    M1 (net66 Vin\- net69 net69) ami06P w=49.95u l=900n as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    Iref (net65 GND) isource type=dc dc=60u m=1
    Rc (net70 net80) resistor r=1K m=1
ends Project1_Opamp
// End of subcircuit definition.

// Library name: ese6680
// Cell name: Project1_Test_Phase
// View name: schematic
V0 (VDD 0) vsource type=dc dc=5
V2 (Vin\- 0) vsource type=dc dc=2.5 mag=-500m
V1 (Vin\+ 0) vsource type=dc dc=2.5 mag=500
I0 (0 VDD Vin\+ Vin\- Vout) Project1_Opamp
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=10 stop=100G dec=100 annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
