// Generated for: spectre
// Generated on: Mar 26 12:16:33 2026
// Design library name: ese6680
// Design cell name: Project2_Test_Static_PartC
// Design view name: schematic
simulator lang=spectre
global 0
parameters Vd=0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ese6680
// Cell name: Project2_StaticComparator
// View name: schematic
subckt Project2_StaticComparator Gnd STROBE Vdd Vi1 Vi2 Vo1 Vo2
    P3 (Vo2 STROBE Vo1 Vdd) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    P2 (Vo1 STROBE Vo2 Vdd) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    P1 (Vo2 Vo1 Vdd Vdd) ami06P w=12.0u l=600n as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
    P0 (Vo1 Vo2 Vdd Vdd) ami06P w=12.0u l=600n as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
    N1 (Vo1 Vi2 net15 Gnd) ami06N w=12.0u l=600n as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
    N0 (Vo2 Vi1 net15 Gnd) ami06N w=12.0u l=600n as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
    I0 (net15 Gnd) isource type=dc dc=30u m=1
ends Project2_StaticComparator
// End of subcircuit definition.

// Library name: ese6680
// Cell name: Project2_Test_Static_PartC
// View name: schematic
V3 (net2 0) vsource type=dc dc=5
V0 (net1 0) vsource type=dc dc=5
V2 (net3 0) vsource type=dc dc=2.5 - Vd/2
V1 (net4 0) vsource type=dc dc=2.5 + Vd/2
I7 (0 net2 net1 net4 net3 Vo1 Vo2) Project2_StaticComparator
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc hysteresis=yes param=Vd start=-5 stop=5 step=10m write="spectre.dc" \
    oppoint=rawfile maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
